US08669234B2
{1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (44 mg, 0.138 mmol), (1-{2-[5-(4′-Bromo-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (67 mg, 0.128 mmol), Pd(PPh3)4 (15 mg, 0.0128 mmol), CuI (2 mg, 0.0128 mmol) and triethylamine (0.180 mL, 1.28 mmol) were suspended in DMF (2 mL) and the mixture was degassed for 10 min with nitrogen. The reaction mixture was stirred at 80° C. for 15 hours then cooled to RT. Formic acid (0.1 mL) and water (1 mL) were added and the mixture was purified by reverse phase preparative HPLC, giving (1-{2-[5-(4′-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-ylethynyl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (12 mg, 12%). 1H NMR (MeOH-d4, 400 MHz) 7.73 (d, J=8.4 Hz, 2H), 7.66-7.64 (m, 4H), 7.52 (d, J=8.2 Hz, 2H), 7.35 (s, 1H), 7.24 (s, 1H), 6.98 (m, 2H), 5.18 (m, 1H), 5.11 (m, 1H), 4.26-4.19 (m, 2H), 4.01-3.80 (m, 4H), 3.65 (s, 6H), 2.37-2.01 (m, 10H), 1.00-0.88 (m, 12H); MS (ESI) m/z 763 [M+H]+.

reactant | {1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.138 mmol, 44 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C#C)=O | C16H22N4O3
reactant | (1-{2-[5-(4′-Bromo-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.128 mmol, 67 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)Br)=O | C26H29BrN4O3
reactant | triethylamine | 1.28 mmol, 0.180 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.0128 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.0128 mmol, 2 mg | [Cu]I
product | (1-{2-[5-(4′-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-ylethynyl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 12 mg, 12% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#CC=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C42H50N8O6
